US07186729B2
Step 3: 2-[4-(4-Chloro-phenyl)-piperidin-4-yl]-propan-2-ol
The title compound was prepared by following the procedure of Example 456, step 3, but replacing 4-(4-chloro-phenyl)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester with: 4-(4-chloro-phenyl)-4-(1-hydroxy-1-methyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-(4-chloro-phenyl)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl | C17H21ClN2O2
reactant | 4-(4-chloro-phenyl)-4-(1-hydroxy-1-methyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(C)(C)O)C1=CC=C(C=C1)Cl | C19H28ClNO3
product | 2-[4-(4-Chloro-phenyl)-piperidin-4-yl]-propan-2-ol | ClC1=CC=C(C=C1)C1(CCNCC1)C(C)(C)O | C14H20ClNO
